US06162809
25. 2-{5-[3-Methyl-2-[(4-pyridinylthio)methyl]-4-pyridinyl]-1,5-dithiapentyl}pyridine-3-carboxylic acid
According to the procedure indicated in Example 21, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 2-mercaptonicotinic acid, and subsequent establishment of a pH of about 6 gives the title compound as a colorless solid; m.p. 219° C., dec.; yield 57% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 2-mercaptonicotinic acid | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
product | 2-{5-[3-Methyl-2-[(4-pyridinylthio)methyl]-4-pyridinyl]-1,5-dithiapentyl}pyridine-3-carboxylic acid | yield 57% | CC=1C(=NC=CC1SCCCSC1=NC=CC=C1C(=O)O)CSC1=CC=NC=C1 | C21H21N3O2S3
